US07435827B2
A 0.5 liter reactor equipped with a mechanical stirrer, a thermometer and a reflux condenser was loaded with Zoledronic acid form I (10.0 g) and water (260 ml). The suspension was heated to 80° C. to obtain a clear solution. Sodium hydroxide (pearls, 2.84 g) was added. A pH test of the sodium salt showed pH=7.35. The solution was cooled to 60° C. and IPA (10.5 ml) was added. The reaction mixture was cooled to room temperature during 2 hours and was stirred at this temperature for about 16 hours. After cooling to 5° C. and stirring at this temperature for 2 hours, the solution was evaporated to dryness to obtain a white solid. The obtained solid was reslurried in water (50 ml) and cooled to 4° C. The product was then isolated by filtration and dried in a vacuum oven at 50° C. for 24 hours to obtain 3.2 g of Zoledronate disodium crystal form VII (24%) (pH=7.27). Purity by HPLC 100.0%.

reactant | Zoledronic acid | C1=CN(C=N1)CC(O)(P(=O)(O)O)P(=O)(O)O | C5H10N2O7P2
reactant | Sodium hydroxide | 2.84 g | [OH-].[Na+]
reactant | sodium | [Na] | Na
reactant | IPA | 10.5 ml | CC(C)O | C3H8O
solvent | water | 50 ml | O | H2O
solvent | water | 260 ml | O | H2O
product | Zoledronate disodium | 3.2 g | C1=CN(C=N1)CC(O)(P(=O)(O)[O-])P(=O)(O)[O-].O.O.O.O.[Na+].[Na+] | InChI=1S/C5H10N2O7P2.2Na.4H2O/c8-5(15(9,10)11,16(12,13)14)3-7-2-1-6-4-7;;;;;;/h1-2,4,8H,3H2,(H2,9,10,11)(H2,12,13,14);;;4*1H2/q;2*+1;;;;/p-2
